data/rdb19/train.csv
rxn,smiles,ea
2544,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][C:22]([O:21][C:20]([H:27])([H:28])[H:29])([O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34],47.45596323697828
3203,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([O:22][C:23]([C:24]([H:32])([H:33])[H:34])([C:25]([H:26])[H:27])[H:31])([H:28])([H:29])[H:30]>>[C:1]([C:2]([H:10])([H:11])[C:25]([C:23]([O:22][C:21]([H:28])([H:29])[H:30])([C:24]([H:32])([H:33])[H:34])[H:31])([H:26])[H:27])([H:7])([H:8])[H:9].[C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20],57.992866154934745
2908,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])([C:20]([H:21])[H:22])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([O:5][C:20]([C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:29])([H:30])[H:31])[H:28])([H:21])[H:22])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],28.5640099758748
3472,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:10])([H:6])([H:7])[H:8].[H:9][O:21][C:20]([C:18]([C:17]([H:23])([H:24])[H:25])=[C:19]([H:26])[H:27])[O:22][H:28],32.75941348151537
2871,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:16][H:17]>>[C:1]([C:2]([H:12])[O:16][H:17])([H:8])([H:9])[H:10].[O:3]([C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:11],45.81830956239719
5541,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[N:18]([C:19](=[O:20])[H:26])[H:25])([H:21])([H:22])[H:23].[C:1]([H:7])([H:8])([H:9])[H:24].[C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10],81.24435340362834
4921,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19][c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[H:27])([H:10])[H:11])([H:7])([H:8])[H:9],29.00856127490988
1741,[C:15]([C:16]([O:17][C:18](=[O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16]([O:17][C:18](=[O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])([H:25])[H:26])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10],27.146535263804253
1145,[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:14]([C:15](=[O:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[O:16][C:15]([N:14]([H:19])[H:20])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10],28.34228362207068
1337,[C:10]([C:11]([C:12]([H:13])[H:14])([C:15](=[O:16])[N:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:9][C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([C:15](=[O:16])[N:17]([H:22])[H:23])[H:21])([H:13])[H:14].[O:1]([C:2](=[O:3])[C:4](=[C:5][H:8])[H:7])[H:6],25.75396250683116
250,[C:1]([C:2]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([C:11]([H:13])([H:14])[H:15])[H:12])([H:3])[H:4]>>[C:1]([C:2]([H:5])([H:6])[O:7][O:8])([H:3])([H:4])[C:9]([H:10])([C:11]([H:13])([H:14])[H:15])[H:12],61.27284522951231
5160,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[O:29][C:30](=[O:31])[C:32]([H:38])([H:39])[H:40])([H:36])[H:37])([H:33])([H:34])[H:35]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1([H:37])[C:6]([H:20])[C:7]([H:21])=[C:8]([H:22])[C:9]([H:23])=[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26](=[C:27]([H:28])[O:29][C:30](=[O:31])[C:32]([H:38])([H:39])[H:40])[H:36])([H:33])([H:34])[H:35],42.18737368856091
